*|DSPF	1.5
*|DESIGN	nmos_cm_25x3x1_111_1
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_25x3x1_111_1 d0 d1 s

* Net:s ----------------


R1 s s:8 6.104
R2 s s:4 5.46
R3 s:4 s:53 2.436
R4 s:4 MN1@0:s 14
R5 s:4 s:52 1.092
R6 s:4 MN1@0:s 14
R7 s:4 s:5 4.368
R8 s:4 MN1@0:s 14
R9 s:5 s:62 2.436
R10 s:5 MN1@1:s 14
R11 s:5 s:61 1.092
R12 s:5 MN1@1:s 14
R13 s:5 s:9 1.54
R14 s:5 MN1@1:s 14
R15 s:9 s:7 25.06
R16 s:9 s:28 1.008
R17 s:9 s:25 1.736
R18 s:7 s:29 1.288
R19 s:7 s:3 2.632
R20 s:7 s:23 1.092
R21 s:3 s:17 1.12
R22 s:3 MN1@0:b 14
R23 s:3 s:16 1.12
R24 s:3 MN1@0:b 14
R25 s:3 s:6 14.84
R26 s:3 MN1@0:b 14
R27 s:6 s:27 1.288
R28 s:6 s:8 25.06
R29 s:6 s:0 2.632
R30 s:0 s:11 1.12
R31 s:0 MN0@0:b 14
R32 s:0 s:10 1.12
R33 s:0 MN0@0:b 14
R34 s:0 s:22 3.724
R35 s:0 MN0@0:b 14
R36 s:8 s:26 1.008
R37 s:8 s:2 1.54
R38 s:2 s:44 2.436
R39 s:2 MN0@1:s 14
R40 s:2 s:43 1.092
R41 s:2 MN0@1:s 14
R42 s:2 s:1 4.368
R43 s:2 MN0@1:s 14
R44 s:1 s:35 2.436
R45 s:1 MN0@0:s 14
R46 s:1 s:34 1.092
R47 s:1 MN0@0:s 14
R48 s:1 s:24 1.092
R49 s:1 MN0@0:s 14
R50 s:34 s:33 3.528
R51 s:34 MN0@0:s 14
R52 s:33 s:32 3.528
R53 s:33 MN0@0:s 14
R54 s:32 s:31 3.528
R55 s:32 MN0@0:s 14
R56 s:31 s:30 3.528
R57 s:31 MN0@0:s 14
R58 s:30 s:12 2.688
R59 s:30 MN0@0:s 14
R60 s:35 s:36 3.528
R61 s:35 MN0@0:s 14
R62 s:36 s:37 3.528
R63 s:36 MN0@0:s 14
R64 s:37 s:38 3.528
R65 s:37 MN0@0:s 14
R66 s:38 s:13 2.688
R67 s:38 MN0@0:s 14
R68 s:43 s:42 3.528
R69 s:43 MN0@1:s 14
R70 s:42 s:41 3.528
R71 s:42 MN0@1:s 14
R72 s:41 s:40 3.528
R73 s:41 MN0@1:s 14
R74 s:40 s:39 3.528
R75 s:40 MN0@1:s 14
R76 s:39 s:14 2.688
R77 s:39 MN0@1:s 14
R78 s:44 s:45 3.528
R79 s:44 MN0@1:s 14
R80 s:45 s:46 3.528
R81 s:45 MN0@1:s 14
R82 s:46 s:47 3.528
R83 s:46 MN0@1:s 14
R84 s:47 s:15 2.688
R85 s:47 MN0@1:s 14
R86 s:61 s:60 3.528
R87 s:61 MN1@1:s 14
R88 s:60 s:59 3.528
R89 s:60 MN1@1:s 14
R90 s:59 s:58 3.528
R91 s:59 MN1@1:s 14
R92 s:58 s:57 3.528
R93 s:58 MN1@1:s 14
R94 s:57 s:20 2.688
R95 s:57 MN1@1:s 14
R96 s:62 s:63 3.528
R97 s:62 MN1@1:s 14
R98 s:63 s:64 3.528
R99 s:63 MN1@1:s 14
R100 s:64 s:65 3.528
R101 s:64 MN1@1:s 14
R102 s:65 s:21 2.688
R103 s:65 MN1@1:s 14
R104 s:52 s:51 3.528
R105 s:52 MN1@0:s 14
R106 s:51 s:50 3.528
R107 s:51 MN1@0:s 14
R108 s:50 s:49 3.528
R109 s:50 MN1@0:s 14
R110 s:49 s:48 3.528
R111 s:49 MN1@0:s 14
R112 s:48 s:18 2.688
R113 s:48 MN1@0:s 14
R114 s:53 s:54 3.528
R115 s:53 MN1@0:s 14
R116 s:54 s:55 3.528
R117 s:54 MN1@0:s 14
R118 s:55 s:56 3.528
R119 s:55 MN1@0:s 14
R120 s:56 s:19 2.688
R121 s:56 MN1@0:s 14
R122 MN0@0:b MN0@1:b 0.01
R123 MN0@1:b MN0@2:b 0.01
R124 MN0@1:s MN0@2:s 0.01
R125 MN1@0:b MN1@1:b 0.01
R126 MN1@1:b MN1@2:b 0.01
R127 MN1@1:s MN1@2:s 0.01
C1 s:4 0 1.827e-14
C2 s:4 0 8.190000000000001e-15
C3 s:4 0 3.2760000000000004e-14
C4 s:5 0 1.827e-14
C5 s:5 0 8.190000000000001e-15
C6 s:5 0 1.155e-14
C7 s:9 0 1.8795e-13
C8 s:9 0 7.56e-15
C9 s:9 0 1.3020000000000001e-14
C10 s:7 0 9.66e-15
C11 s:7 0 1.974e-14
C12 s:7 0 8.190000000000001e-15
C13 s:3 0 8.400000000000001e-15
C14 s:3 0 8.400000000000001e-15
C15 s:3 0 1.113e-13
C16 s:6 0 9.66e-15
C17 s:6 0 1.8795e-13
C18 s:6 0 1.974e-14
C19 s:0 0 8.400000000000001e-15
C20 s:0 0 8.400000000000001e-15
C21 s:0 0 2.793e-14
C22 s:8 0 7.56e-15
C23 s:8 0 1.155e-14
C24 s:2 0 1.827e-14
C25 s:2 0 8.190000000000001e-15
C26 s:2 0 3.2760000000000004e-14
C27 s:1 0 1.827e-14
C28 s:1 0 8.190000000000001e-15
C29 s:1 0 8.190000000000001e-15
C30 s:34 0 2.6460000000000002e-14
C31 s:33 0 2.6460000000000002e-14
C32 s:32 0 2.6460000000000002e-14
C33 s:31 0 2.6460000000000002e-14
C34 s:30 0 2.016e-14
C35 s:35 0 2.6460000000000002e-14
C36 s:36 0 2.6460000000000002e-14
C37 s:37 0 2.6460000000000002e-14
C38 s:38 0 2.016e-14
C39 s:43 0 2.6460000000000002e-14
C40 s:42 0 2.6460000000000002e-14
C41 s:41 0 2.6460000000000002e-14
C42 s:40 0 2.6460000000000002e-14
C43 s:39 0 2.016e-14
C44 s:44 0 2.6460000000000002e-14
C45 s:45 0 2.6460000000000002e-14
C46 s:46 0 2.6460000000000002e-14
C47 s:47 0 2.016e-14
C48 s:61 0 2.6460000000000002e-14
C49 s:60 0 2.6460000000000002e-14
C50 s:59 0 2.6460000000000002e-14
C51 s:58 0 2.6460000000000002e-14
C52 s:57 0 2.016e-14
C53 s:62 0 2.6460000000000002e-14
C54 s:63 0 2.6460000000000002e-14
C55 s:64 0 2.6460000000000002e-14
C56 s:65 0 2.016e-14
C57 s:52 0 2.6460000000000002e-14
C58 s:51 0 2.6460000000000002e-14
C59 s:50 0 2.6460000000000002e-14
C60 s:49 0 2.6460000000000002e-14
C61 s:48 0 2.016e-14
C62 s:53 0 2.6460000000000002e-14
C63 s:54 0 2.6460000000000002e-14
C64 s:55 0 2.6460000000000002e-14
C65 s:56 0 2.016e-14


* Net:d0 ----------------


R128 MN0@0:d MN0@1:d 0.01



* Net:d1 ----------------


R129 d1 d1:0 2.184
R130 d1 d1:1 2.184
R131 d1:1 d1:23 1.092
R132 d1:1 MN1@2:d 14
R133 d1:1 d1:22 2.436
R134 d1:1 MN1@2:d 14
R135 d1:1 d1:9 1.008
R136 d1:1 MN1@2:d 14
R137 d1:22 d1:21 3.528
R138 d1:22 MN1@2:d 14
R139 d1:21 d1:20 3.528
R140 d1:21 MN1@2:d 14
R141 d1:20 d1:19 3.528
R142 d1:20 MN1@2:d 14
R143 d1:19 d1:5 2.688
R144 d1:19 MN1@2:d 14
R145 d1:23 d1:24 3.528
R146 d1:23 MN1@2:d 14
R147 d1:24 d1:25 3.528
R148 d1:24 MN1@2:d 14
R149 d1:25 d1:26 3.528
R150 d1:25 MN1@2:d 14
R151 d1:26 d1:27 3.528
R152 d1:26 MN1@2:d 14
R153 d1:27 d1:6 2.688
R154 d1:27 MN1@2:d 14
R155 d1:0 d1:14 1.092
R156 d1:0 MN1@0:d 14
R157 d1:0 d1:13 2.436
R158 d1:0 MN1@0:d 14
R159 d1:0 d1:2 0.644
R160 d1:0 MN1@0:d 14
R161 d1:2 d1:8 1.008
R162 d1:2 d1:7 1.008
R163 d1:13 d1:12 3.528
R164 d1:13 MN1@0:d 14
R165 d1:12 d1:11 3.528
R166 d1:12 MN1@0:d 14
R167 d1:11 d1:10 3.528
R168 d1:11 MN1@0:d 14
R169 d1:10 d1:3 2.688
R170 d1:10 MN1@0:d 14
R171 d1:14 d1:15 3.528
R172 d1:14 MN1@0:d 14
R173 d1:15 d1:16 3.528
R174 d1:15 MN1@0:d 14
R175 d1:16 d1:17 3.528
R176 d1:16 MN1@0:d 14
R177 d1:17 d1:18 3.528
R178 d1:17 MN1@0:d 14
R179 d1:18 d1:4 2.688
R180 d1:18 MN1@0:d 14
R181 MN1@0:d MN1@1:d 0.01
R182 MN1@2:d MN2@0:d 0.01
C66 d1:1 0 8.190000000000001e-15
C67 d1:1 0 1.827e-14
C68 d1:1 0 7.56e-15
C69 d1:22 0 2.6460000000000002e-14
C70 d1:21 0 2.6460000000000002e-14
C71 d1:20 0 2.6460000000000002e-14
C72 d1:19 0 2.016e-14
C73 d1:23 0 2.6460000000000002e-14
C74 d1:24 0 2.6460000000000002e-14
C75 d1:25 0 2.6460000000000002e-14
C76 d1:26 0 2.6460000000000002e-14
C77 d1:27 0 2.016e-14
C78 d1:0 0 8.190000000000001e-15
C79 d1:0 0 1.827e-14
C80 d1:0 0 4.83e-15
C81 d1:2 0 7.56e-15
C82 d1:2 0 7.56e-15
C83 d1:13 0 2.6460000000000002e-14
C84 d1:12 0 2.6460000000000002e-14
C85 d1:11 0 2.6460000000000002e-14
C86 d1:10 0 2.016e-14
C87 d1:14 0 2.6460000000000002e-14
C88 d1:15 0 2.6460000000000002e-14
C89 d1:16 0 2.6460000000000002e-14
C90 d1:17 0 2.6460000000000002e-14
C91 d1:18 0 2.016e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@2 MN0@2:d MN0@2:g MN0@2:s MN0@2:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@2 MN1@2:d MN1@2:g MN1@2:s MN1@2:b nfet m=1 l=1.4e-08 nfin=25 nf=1 par=1 par_nf=1 asej=1.49e-14 adej=1.49e-14 psej=2.97e-06 pdej=2.97e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end